US04966898
To a solution of 21 g of 4,4-difluoro-3β-(2-tetrahydropyranyloxy)androst-5-en-17-one in a mixture of 175 ml of cyclopropylamine and 150 ml of methanol there is added 5 g of molecular sieves. The reaction mixture is refluxed for 48 hours, cooled to room temperature, and filtered through magnesium sulfate. The magnesium sulfate is washed with ethyl acetate and the solvent is removed from the combined filtrates under reduced pressure to give 17-(cyclopropylimino)-4,4-difluoro-3β-(2-tetrahydropyranyloxy)androst-5-ene.

reactant | 4,4-difluoro-3β-(2-tetrahydropyranyloxy)androst-5-en-17-one | 21 g | FC1(C2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC[C@@H]1OC1OCCCC1)C)=O)F | C24H34F2O3
reactant | cyclopropylamine | 175 ml | C1(CC1)N | C3H7N
solvent | methanol | 150 ml | CO | CH4O
product | 17-(cyclopropylimino)-4,4-difluoro-3β-(2-tetrahydropyranyloxy)androst-5-ene | C1(CC1)N=C1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C([C@H](CC[C@]3(C)[C@H]1CC2)OC2OCCCC2)(F)F | C27H39F2NO2
